US05273982
N-(t-butoxycarbonyl)-L-aspartic acid is coupled with two equivalents of β-alanine benzyl ester to give N,N'-[[(S)-(1-t-butoxyformamido)ethylene]dicarbonyl]di-β-alanine dibenzyl ester, m.p. 109°-110° C.

reactant | N-(t-butoxycarbonyl)-L-aspartic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)C(=O)O | C9H15NO6
reactant | β-alanine benzyl ester | two equivalents | C(C1=CC=CC=C1)OC(CCN)=O | C10H13NO2
product | N,N'-[[(S)-(1-t-butoxyformamido)ethylene]dicarbonyl]di-β-alanine dibenzyl ester | C(C1=CC=CC=C1)OC(CCNC(=O)C[C@@H](C(=O)NCCC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C29H37N3O8
